US06372770B1
(d) 2-Benzyl-5-chloro-7-(3-hydroxy-1-propyl)Benzoxazole
A solution of 2-benzyl-5-chloro-7-allylbenzoxazole (2.2 g, 8 mmol) in THF (12 ml) was added to a solution of di-iso-amylborane (1.13 g, 8 mmol) in THF. The reaction was allowed to stir at room temperature for 21 hours and then 3 N sodium hydroxide solution (4 ml) was added followed by 30% hydrogen peroxide (4 ml). After 3 hours, the reaction mixture was partitioned between dichloromethane and water. The dichloromethane solution was washed with water (3×100 ml) and the solvent was evaporated under reduced pressure. The residue was purified over flash chromatographic silica gel to give the title compound (600 mg) eluted with 1:1 dichloromethane/hexane. The material was recrystallized three times from toluene to give the title compound (200 mg), trip 78-80° C.

reactant | 2-benzyl-5-chloro-7-allylbenzoxazole | 8 mmol, 2.2 g | C(C1=CC=CC=C1)C=1OC2=C(N1)C=C(C=C2CC=C)Cl | C17H14ClNO
reactant | di-iso-amylborane | 8 mmol, 1.13 g | C(CC(C)C)BCCC(C)C | C10H23B
reactant | sodium hydroxide | 3 N, 4 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 4 ml | OO | H2O2
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 2-Benzyl-5-chloro-7-(3-hydroxy-1-propyl)Benzoxazole | 600 mg | C(C1=CC=CC=C1)C=1OC2=C(N1)C=C(C=C2CCCO)Cl | C17H16ClNO2
